US07872144B2
Preparation of Etidronic Acid
Acetic acid (50 g), phosphorous acid (240 gm) and 1,4-dioxane (1000 mL) was taken in a four necked round bottom flask fitted with an addition funnel, mechanical stirrer, condenser and thermometer pocket and allowed to stir at 90-95° C. Phosphorus trichloride (400 gm) was then added to the reaction mixture and allowed to heat at 90-95° C. The reaction mixture was cooled and distilled water (500 ml) was added to it. The reaction mixture was further heated to 90-95° C. It was then cooled and acetonitrile (1000 mL) was added to it. The solution was further cooled to 0-5° C. and stirred for 4-5 hrs. The precipitated solid was filtered, washed with acetonitrile and dried in vacuum oven to give 9 gm of product.

reactant | Acetic acid | 50 g | C(C)(=O)O | C2H4O2
reactant | phosphorous acid | 240 gm | P(O)(O)O | H3O3P
reactant | Phosphorus trichloride | 400 gm | P(Cl)(Cl)Cl | Cl3P
solvent | 1,4-dioxane | 1000 mL | O1CCOCC1 | C4H8O2
product | Etidronic Acid | 9 gm | CC(O)(P(=O)(O)O)P(=O)(O)O | C2H8O7P2
